US07074799B2
Heat a solution of 2,5-dibromo-3-nitropyridine (1.77 g, 6.3 mmol; Malinowski (1988) Bull. Soc. Chim. Belg. 97:51; see also U.S. Pat. No. 5,801,183) and cuprous cyanide (0.60 g, 6.69 mmol) in N,N-dimethylacetamide (25 mL) at 100° C. for 72 hours. After cooling, dilute the mixture with water (25 mL) and extract twice with EtOAc (25 mL each), then wash twice with water (25 mL each). The combined EtOAc extracts are dried (Na2SO4), evaporated, and purified by flash chromatography (50% EtOAc-hexane) to obtain 5-bromo-3-nitropyridine-2-carbonitrile as a pale solid.

reactant | 2,5-dibromo-3-nitropyridine | BrC1=NC=C(C=C1[N+](=O)[O-])Br | C5H2Br2N2O2
reactant | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 25 mL | O | H2O
product | 5-bromo-3-nitropyridine-2-carbonitrile | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
